US04160837
5.0 g (0.018 mol) of 3,4-epoxy-1-(β,β,β-trichloroethoxycarbonyl)-piperidine are dissolved in 50 ml of dioxane and the solution is treated with 60 ml of 6 N hydrochloric acid. The slightly exothermic reaction is kept at room temperature by means of a water bath, and the reaction mixture is stirred for 15 hours, then diluted with water and extracted with 3 times 100 ml of methylene chloride. The organic phase is washed with 0.1 N sodium hydroxide solution and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and then evaporated to dryness, first under a water pump vacuum and then under a high vacuum, whereupon trans-3-hydroxy-4-chloro-1-(β,β,β-trichloroethoxycarbonyl)-piperidine is obtained in the form of a slightly yellow oil.

reactant | 3,4-epoxy-1-(β,β,β-trichloroethoxycarbonyl)-piperidine | 0.018 mol, 5.0 g | O1C2CN(CCC21)C(=O)OCC(Cl)(Cl)Cl | C8H10Cl3NO3
reactant | hydrochloric acid | 6 N, 60 ml | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | trans-3-hydroxy-4-chloro-1-(β,β,β-trichloroethoxycarbonyl)-piperidine | O[C@@H]1CN(CC[C@H]1Cl)C(=O)OCC(Cl)(Cl)Cl | C8H11Cl4NO3
